US06569851B1
To a solution of 4-biphenylcarboxamide (Aldrich) (0.025 mole) in 150 mL of THF cooled to 10° C. was added a solution of 1.5 eq of LAH (1M in THF) dropwise. The reaction mixture turned from a white slurry to a green homogenous solution and then to a yellow homogeneous solution. The reaction was then quenched with 2.5 mL of 1N NaOH. The mixture was then filtered through Hyflo and extracted with ethyl acetate. The organic layer was then washed with 1N HCl. The pH of the resulting aqueous layer was adjusted to about 9 with 1N NaOH and extracted with ethyl acetate. The organic extracts were washed with water and brine, and then dried over Na2SO4, filtered and concentrated to give 4-(phenyl)benzyl amine as a white solid.

reactant | 4-biphenylcarboxamide | 0.025 mole | C1(=CC=C(C=C1)C(=O)N)C1=CC=CC=C1 | C13H11NO
reactant | LAH | 1M, 1.5 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-(phenyl)benzyl amine | C1(=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13N
